US05362744
(a) Phenyl-carbamimidothioic acid, methyl ester, monohydroiodide
To a stirred, chilled (+3° C.) suspension of phenyl-thiourea (15.66 g, 0.1029 mol) in absolute ethanol under nitrogen atmosphere was added in one portion methyl iodide (6.4 mL, 0.10 mol), and the mixture was stirred for 1.5 hours. The suspension was allowed to warm to room temperature over 1.5 hours and was stirred. All of the solids dissolved within 5 hours at room temperature to give a yellow solution. After 6 hours a thick off-white precipitate formed. After 40 hours diethyl ether (400 mL) was added dropwise. The solids were filtered off, washed with diethyl ether, and dried in vacuo (25° C.), yield 28.26 g (97%), mp=142°-144° C.

reactant | phenyl-thiourea | 0.1029 mol, 15.66 g | C1(=CC=CC=C1)NC(=S)N | C7H8N2S
reactant | methyl iodide | 0.10 mol, 6.4 mL | CI | CH3I
reactant | diethyl ether | 400 mL | C(C)OCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
product | Phenyl-carbamimidothioic acid, methyl ester, monohydroiodide | I.C1(=CC=CC=C1)NC(=N)SC | InChI=1S/C8H10N2S.HI/c1-11-8(9)10-7-5-3-2-4-6-7;/h2-6H,1H3,(H2,9,10);1H
